US05684020
4-(2,3-Dihydro-5-methoxybenzofuran-6-yl)-1-(indan-1-ylmethyl)piperazine
Prepared as described in Example 9, starting from indan-1-ylcarboxylic acid and 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine. The fumarate of the title compound melts at 195°-197° C. (ethanol).

reactant | indan-1-ylcarboxylic acid | C1(CCC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | COC=1C(=CC2=C(CCO2)C1)N1CCNCC1 | C13H18N2O2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 4-(2,3-Dihydro-5-methoxybenzofuran-6-yl)-1-(indan-1-ylmethyl)piperazine | COC=1C(=CC2=C(CCO2)C1)N1CCN(CC1)CC1CCC2=CC=CC=C12 | C23H28N2O2
